US06743792B2
A solution of 15% TiCl3 in water (0.13 mol) was added dropwise at RT to a solution of (±)-2,6-dibromo-α-(4-chlorophenyl)-4-nitrobenzeneacetonitrile (0.026 mol) in THF (200 ml). The mixture was stirred at RT for 2 hours, poured out into H2O and extracted with CH2Cl2. The organic layer was separated, washed with H2O and with K2CO3 10%, dried, filtered and the solvent was evaporated. A part of this residue (2 g) was crystallized from diethyl ether. The precipitate was filtered off and dried, yielding 1.3 g (±)-4-amino-2,6-dibromo-α-(4-chlorophenyl)benzeneacetonitrile (interm. 47).

reactant | water | 0.13 mol | O | H2O
reactant | (±)-2,6-dibromo-α-(4-chlorophenyl)-4-nitrobenzeneacetonitrile | 0.026 mol | BrC1=C(C(=CC(=C1)[N+](=O)[O-])Br)C(C#N)C1=CC=C(C=C1)Cl | C14H7Br2ClN2O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | (±)-4-amino-2,6-dibromo-α-(4-chlorophenyl)benzeneacetonitrile | 1.3 g | NC1=CC(=C(C(=C1)Br)C(C#N)C1=CC=C(C=C1)Cl)Br | C14H9Br2ClN2
